### PR TITLE
Reason about entire keccak state at once

### PR DESCRIPTION
**Pull request by mitschabaude**
- **add support for vectors of provable types**
- **refactor keccak state structure**
- **improve speed of rot64 bytes proofs**
- **fix byte rotation proofs**
- **fix byte rotation table theorems**
- **fix rotation 64 definition**
- **add keccak theta_d circuit**
- **add byte decomposition gadget**
- **refactor rotation 64 using byte decomposition, still too large**
- **experiment with having a formal circuit for u64 witnessing**
- **turn the u64 normalized citcuit into an assertion**
- **refactor rotation 64 using better u64 witness**
- **simplify rot64 techincal lemmas proofs**
- **simplify singleton input and output structs**
- **Add theta xor gadget**
- **minor namespace fix**
- **fix circuits**
- **tweak rot64 spec**
- **prove soundness of theta d**
- **simplify circuits definitions**
- **refactor keccak reference impl to use vectors**
- **refactor keccak implementation to use UInt64**
- **simplify theta_c soundness proof with fancy tactics**
- **fix theta_d to use reference implementation**
- **clean up more proofs**
- **theta xor with super short soundness proof!**
- **add theta gadget**
- **fix proofs**
- **add theta to CI**
- **introduce var from offset for vectors, simplify thetaxor output**
- **define methods on keccak state and new type for 5-vectors**
- **add some simp lemmas; remove val_zero / val_one to avoid treating 0 and 1 differently**
- **fix and simplify thetac proof**
- **fix theta xor**
- **fix thetad**
- **prove theta soundness (very easily)**

### CODE REVIEW

File: Clean/Gadgets/Keccak/Theta.lean [hunk 1]
```diff
@@ -9,76 +9,45 @@ import Clean.Gadgets.Keccak.ThetaD
...
-  simp only [circuit_norm, subcircuit_norm] at h_holds
-  sorry
-
+  intro i0 env state_var state h_input h_assumptions h_holds
+  dsimp only [circuit_norm, subcircuit_norm, theta, assumptions, spec,
+    ThetaC.circuit, ThetaD.circuit, ThetaXor.circuit,
+    ThetaC.assumptions, ThetaD.assumptions, ThetaXor.assumptions,
+    ThetaC.spec, ThetaD.spec, ThetaXor.spec, Specs.Keccak256.theta
+  ] at *
+  simp_all [circuit_norm]
```
Comment (gio54321) [inline Clean/Gadgets/Keccak/Theta.lean]: Fun fact: a single `simp_all` suffices for this proof!
```lean
theorem soundness : Soundness (F p) assumptions spec := by
  simp_all [Soundness, circuit_norm, subcircuit_norm, spec, theta, assumptions,
    ThetaC.circuit, ThetaD.circuit, ThetaXor.circuit,
    ThetaC.assumptions, ThetaD.assumptions, ThetaXor.assumptions,
    ThetaC.spec, ThetaD.spec, ThetaXor.spec, Specs.Keccak256.theta
  ]
```

**Review by gio54321 — APPROVED** [review]
Very nice!

File: Clean/Gadgets/Keccak/Theta.lean (hunk 1 above)
Comment (mitschabaude) [reply Clean/Gadgets/Keccak/Theta.lean]: love it
